chemprop_1/tests/data/regression/rxn/e2sn2/fold_0/aam_train.csv
AAM,act
[Br-:2].[Cl:1][C:5]([C:4]([H:3])([N:31]([H:32])[H:33])[H:41])([C:11]#[N:12])[C:21]#[N:22]>>[Br:2][H:3].[C:4](=[C:5]([C:11]#[N:12])[C:21]#[N:22])([N:31]([H:32])[H:33])[H:41].[Cl-:1],26.98410195125668
[Cl:1][C:5]([C:4]([H:3])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43])([H:11])[H:21].[H-:2]>>[C:4](=[C:5]([H:11])[H:21])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43].[Cl-:1].[H:2][H:3],12.67429373135802
[Br:1][C@:5]([C:4]([H:3])([H:31])[N+:41]([O-:42])[O:43])([N:11]([H:12])[H:13])[C:21]([H:22])([H:23])[H:24].[F-:2]>>[Br-:1].[C:4](=[C:5](/[N:11]([H:12])[H:13])[C:21]([H:22])([H:23])[H:24])(\[H:31])[N+:41]([O-:42])[O:43].[F:2][H:3],1.5262176386096833
[Cl:1][C:5]([C:4]([H:3])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43])([C:11]#[N:12])[C:21]#[N:22].[H-:2]>>[C:4](=[C:5]([C:11]#[N:12])[C:21]#[N:22])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43].[Cl-:1].[H:2][H:3],7.204448822220485
[F:1][C@:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[H:41])([N:11]([H:12])[H:13])[N+:21]([O-:22])[O:23].[H-:2]>>[C:4](=[C:5](/[N:11]([H:12])[H:13])[N+:21]([O-:22])[O:23])(\[C:31]([H:32])([H:33])[H:34])[H:41].[F-:1].[H:2][H:3],16.259824710850623
[Cl-:2].[Cl:1][C@:5]([C:4]([H:3])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43])([N+:11]([O-:12])[O:13])[C:21]([H:22])([H:23])[H:24]>>[Cl-:1].[Cl:2][C@@:5]([C:4]([H:3])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43])([N+:11]([O-:12])[O:13])[C:21]([H:22])([H:23])[H:24],45.82661744916975
[Br:1][C:5]([C:4]([H:3])([H:31])[C:41]([H:42])([H:43])[H:44])([H:11])[H:21].[H-:2]>>[Br-:1].[C:4](=[C:5]([H:11])[H:21])([H:31])[C:41]([H:42])([H:43])[H:44].[H:2][H:3],13.624195436388224
[F:1][C@:5]([C@:4]([H:3])([N+:31]([O-:32])[O:33])[N:41]([H:42])[H:43])([N:11]([H:12])[H:13])[N+:21]([O-:22])[O:23].[H-:2]>>[C:4](=[C:5](/[N:11]([H:12])[H:13])[N+:21]([O-:22])[O:23])(\[N+:31]([O-:32])[O:33])[N:41]([H:42])[H:43].[F-:1].[H:2][H:3],4.333564266365472
[F:1][C@:5]([C:4]([H:3])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43])([H:11])[C:21]#[N:22].[H-:2]>>[C:4](=[C:5]([H:11])[C:21]#[N:22])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43].[F-:1].[H:2][H:3],14.617361845196124
[Br:1][C@:5]([C:4]([H:3])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43])([H:11])[N:21]([H:22])[H:23].[H-:2]>>[Br-:1].[H:2][C:5]([C:4]([H:3])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43])([H:11])[N:21]([H:22])[H:23],19.7301784066764
[F-:2].[F:1][C@:5]([C:4]([H:3])([H:31])[H:41])([H:11])[N:21]([H:22])[H:23]>>[F-:1].[F:2][C@@:5]([C:4]([H:3])([H:31])[H:41])([H:11])[N:21]([H:22])[H:23],29.563986743787595
[Cl-:2].[Cl:1][C@:5]([C:4]([H:3])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43])([C:11]#[N:12])[H:21]>>[Cl-:1].[Cl:2][C@@:5]([C:4]([H:3])([N:31]([H:32])[H:33])[N:41]([H:42])[H:43])([C:11]#[N:12])[H:21],34.61921605799293
[F-:2].[F:1][C@:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[C:41]([H:42])([H:43])[H:44])([H:11])[N:21]([H:22])[H:23]>>[F-:1].[F:2][C@@:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[C:41]([H:42])([H:43])[H:44])([H:11])[N:21]([H:22])[H:23],33.18417722655248
[Br:1][C@:5]([C@:4]([H:3])([N:31]([H:32])[H:33])[N+:41]([O-:42])[O:43])([C:11]([H:12])([H:13])[H:14])[H:21].[H-:2]>>[Br-:1].[H:2][C:5]([C@:4]([H:3])([N:31]([H:32])[H:33])[N+:41]([O-:42])[O:43])([C:11]([H:12])([H:13])[H:14])[H:21],10.4406320083093
[F:1][C:5]([C:4]([H:3])([H:31])[H:41])([C:11]([H:12])([H:13])[H:14])[N+:21]([O-:22])[O:23].[H-:2]>>[C:4](=[C:5]([C:11]([H:12])([H:13])[H:14])[N+:21]([O-:22])[O:23])([H:31])[H:41].[F-:1].[H:2][H:3],1.2558767439922995
[Br:1][C:5]([C:4]([H:3])([H:31])[C:41]([H:42])([H:43])[H:44])([C:11]#[N:12])[C:21]#[N:22].[Cl-:2]>>[Br-:1].[C:4](=[C:5]([C:11]#[N:12])[C:21]#[N:22])([H:31])[C:41]([H:42])([H:43])[H:44].[Cl:2][H:3],19.3464968525223
[F:1][C:5]([C:4]([H:3])([H:31])[N:41]([H:42])[H:43])([C:11]#[N:12])[C:21]#[N:22].[H-:2]>>[F-:1].[H:2][C:5]([C:4]([H:3])([H:31])[N:41]([H:42])[H:43])([C:11]#[N:12])[C:21]#[N:22],7.380760765592308
[Cl:1][C@:5]([C:4]([H:3])([C:31]([H:32])([H:33])[H:34])[H:41])([C:11]([H:12])([H:13])[H:14])[C:21]#[N:22].[H-:2]>>[C:4](=[C:5](/[C:11]([H:12])([H:13])[H:14])[C:21]#[N:22])(\[C:31]([H:32])([H:33])[H:34])[H:41].[Cl-:1].[H:2][H:3],6.297608644338029
[F:1][C@:5]([C@:4]([H:3])([N:31]([H:32])[H:33])[N+:41]([O-:42])[O:43])([N+:11]([O-:12])[O:13])[C:21]([H:22])([H:23])[H:24].[H-:2]>>[C:4](=[C:5](/[N+:11]([O-:12])[O:13])[C:21]([H:22])([H:23])[H:24])(\[N:31]([H:32])[H:33])[N+:41]([O-:42])[O:43].[F-:1].[H:2][H:3],2.283999477538191
[Br:1][C@:5]([C:4]([H:3])([H:31])[N:41]([H:42])[H:43])([N+:11]([O-:12])[O:13])[C:21]#[N:22].[Cl-:2]>>[Br-:1].[Cl:2][C@@:5]([C:4]([H:3])([H:31])[N:41]([H:42])[H:43])([N+:11]([O-:12])[O:13])[C:21]#[N:22],32.136541436713074
[Br:1][C:5]([C:4]([H:3])([H:31])[C:41]([H:42])([H:43])[H:44])([H:11])[H:21].[F-:2]>>[Br-:1].[C:4](=[C:5]([H:11])[H:21])([H:31])[C:41]([H:42])([H:43])[H:44].[F:2][H:3],18.746882551634787
